US07109216B2
Part A: To a stirred solution of ethyl 1-(4-bromophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate (6.10 gram, 0.0139 mol) in THF (70 mL) is added LiOH (0.67 gram, 0.0278 mol) and water (70 mL). The resulting mixture is stirred for 16 hours at 50° C. to give a clear solution. After cooling to room temperature, HCl (1N solution, 28 mL) is added to give an oily precipitate which completely solidifies on continued stirring and addition of water (70 mL). The precipitate is collected by filtration, washed with water and dried in vacuo to give 1-(4-bromophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylic acid (4.92 gram, 86% yield). Melting point: 138–142° C.

reactant | ethyl 1-(4-bromophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylate | 0.0139 mol, 6.10 gram | BrC1=CC=C(C=C1)N1C(=NC(=C1)C(=O)OCC)C1=C(C=C(C=C1)Cl)Cl | C18H13BrCl2N2O2
reactant | LiOH | 0.0278 mol, 0.67 gram | [Li+].[OH-]
reactant | water | 70 mL | O | H2O
reactant | HCl | 1N, 28 mL | Cl | ClH
reactant | water | 70 mL | O | H2O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 1-(4-bromophenyl)-2-(2,4-dichlorophenyl)-1H-imidazole-4-carboxylic acid | 4.92 gram, 86% yield | BrC1=CC=C(C=C1)N1C(=NC(=C1)C(=O)O)C1=C(C=C(C=C1)Cl)Cl | C16H9BrCl2N2O2
